US08420816B2
(R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-N,3-dimethyl-N-(2-(methylsulfonyl)ethyl)butanamide
(R)-2-(6-Fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (15 mg, 0.051 mmol), HOBt hydrate (9.46 mg, 0.062 mmol), and EDC hydrochloride (14.81 mg, 0.077 mmol) were combined in DMF (2 mL). N-methyl-2-(methylsulfonyl)ethanamine (10.60 mg, 0.077 mmol) and 4-methylmorpholine (0.023 mL, 0.206 mmol) were added, and the reaction mixture was stirred at room temperature for 2 h. The product was purified by preparative HPLC (10-45% AcCN/H2O with 0.035% TFA), concentrated in vacuo, and lyophilized to afford the title compound as a white solid (12 mg, 57% yield). 1H NMR (500 MHz, CD3OD) δ 0.77 (d, J=6.5 Hz, 3H), 0.95 (d, J=6.5 Hz, 3H), 2.41-2.49 (m, 1H), 2.97 (s, 3H), 3.05 (s, 3H), 3.36 (t, J=6.5 Hz, 2H), 3.78 (t, J=6.5 Hz, 2H), 4.81-4.96 (m, 2H), 5.36 (d, J=11.0 Hz, 1H), 7.97 (d, J=2.5 Hz, 1H), 8.23 (d, J=2.5 Hz, 1H), 12.39 (s, 1H). [M+H] calc'd for C18H23FN4O4S, 411; found, 411.

reactant | (R)-2-(6-Fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.051 mmol, 15 mg | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14FN3O3
reactant | HOBt hydrate | 0.062 mmol, 9.46 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC hydrochloride | 0.077 mmol, 14.81 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-methyl-2-(methylsulfonyl)ethanamine | 0.077 mmol, 10.60 mg | CNCCS(=O)(=O)C | C4H11NO2S
reactant | 4-methylmorpholine | 0.206 mmol, 0.023 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-N,3-dimethyl-N-(2-(methylsulfonyl)ethyl)butanamide | 12 mg, 57% yield | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)N(CCS(=O)(=O)C)C)C(C)C)=O)=CN2 | C18H23FN4O4S
